Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
SOB, malignant R pleural effusion
 
Major Surgical or Invasive Procedure:
Chest Tube and Pleurex Placement
Pleurodesis x 2

 
History of Present Illness:
Mr. ___ is an ___ yo M with PMH of metastatic NSCLC to T11, 
mediastinal LAD, and malignant pleural effusion who presents 
POD#1 following a talc pleurodesis, pleural biopsy, and R PleurX 
and chest tube placement. Patient was recently admitted ___ 
for worsening SOB and fatigue where work-up revealed 
reaccumulation of large R pleural effusion. The patient was seen 
by IP and underwent thoracentesis with improvement in symptoms. 
At that time patient also found to have elevated WBC to 18 with 
UA suggestive of a UTI. He was treated with Ciprofloxacin 500mg 
PO q12h and plans for a 5 day course. He was discharged with 
plans to return for a thorascopy with tube placement and 
pleurodesis. While at home he reports progressive SOB, able to 
walk 15 feet before needing to rest. He has also received 3 
courses of XRT to T11 met. He denies cough, hemoptysis, 
pleuritic pain, chest pain, and palpitations. He denies lower 
extremity swelling. Reports gas/bloating, nausea w/o vomiting, 
and poor appetite. Also notes urinary frequency.  
. 
In PACU, initial VS: T 98.0 BP 125/58 R 20 O2 sat 94% on 4L. 
Labs were remarkable for WBC 16.7 and UA 180 WBCs LG leuks Tr 
blood.  
. 
On the floor, VS: T 97.3, P ___, BP 117/54, R 33, O2 sat 94% on 
4L.  
 
Past Medical History:
# right lung adenocarcinoma with metastasis to T11, right 
recurrent malignant pleural effusions
# HTN
# diverticulosis 
# history of squamous cell cancer of the penis s/p penectomy 
___ years ago 
# appendectomy  
# tonsillectomy 

 
Social History:
___
Family History:
father - arthritis  
mother - no medical problems, died at ___  

 
Physical Exam:
PHYSICAL EXAM:  
Vitals: T 97.3, P ___, BP 117/54, R 33, O2 sat 94% on 4L  
General: Well-appearing pleasant man in no acute distress.  
HEENT: EOMI  
Neck: Supple, no cervical LAD  
CV: RRR, normal S1/S2, no murmurs, rubs, or gallops, 1+ ___ 
pulses bilaterally  
Lungs: R lung with crackles at base and decreased air movement 
throughout. L lung clear to auscultation. 1 chest tube and 1 
pleurex draining sero-sanguinous fluid from R lung. Slight 
tenderness to palpation around tube insertion site, otherwise 
dressing c/d/i.  
Abdomen: Soft, obese, non-tender, non-distended, +BS  
GU: No foley  
Ext: no lower extremity edema  
Neuro: A&O x3  

DISCHARGE EXAM:
98.2 130/82 83 24 98RA
General: Well-appearing no acute distress.  
HEENT: EOMI  
Neck: Supple, no cervical LAD  
CV: RRR, normal S1/S2, no murmurs, rubs, or gallops, 1+ ___ 
pulses bilaterally 
LUNGS: Right post mid to lower lung fields with inspiratory 
crackles but good air movement. Left lung clear to auscultation. 
 Pleurex tube draining right pleural space.   
EXT: no edema
Neuro: A&O x3 
 
Pertinent Results:
ADMISSION
___ 05:55PM BLOOD WBC-16.7* RBC-4.08* Hgb-12.9* Hct-40.0 
MCV-98 MCH-31.7 MCHC-32.4 RDW-13.7 Plt ___
___ 04:32AM BLOOD Glucose-137* UreaN-27* Creat-0.9 Na-140 
K-5.4* Cl-103 HCO3-26 AnGap-16
___ 04:32AM BLOOD Calcium-8.5 Phos-4.0 Mg-2.0

PERTINENT
___ 03:20PM URINE Color-Yellow Appear-Hazy Sp ___
___ 03:20PM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 03:20PM URINE RBC-2 WBC-180* Bacteri-FEW Yeast-NONE 
Epi-0
___ 03:20PM URINE CastHy-3*
___ 1:56 pm URINE      Source: ___. 
                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

DISCHARGE
___ 07:30AM BLOOD WBC-10.0 RBC-3.64* Hgb-11.3* Hct-34.6* 
MCV-95 MCH-31.1 MCHC-32.7 RDW-13.7 Plt ___
___ 07:30AM BLOOD Glucose-123* UreaN-29* Creat-0.9 Na-138 
K-4.5 Cl-100 HCO3-28 AnGap-15
___ 07:30AM BLOOD Calcium-8.5 Phos-2.9 Mg-2.3

CYTOLOGY
SPECIMEN SUBMITTED: RIGHT PARIETAL PLEURA.
Procedure date     Tissue received     Report Date    Diagnosed 
by 
___ ___. ___ 
Previous biopsies:    ___  CELL BLOCK, PLEURAL FLUID:  

DIAGNOSIS: 
Pleura, right parietal, biopsy (A):
Adenocarcinoma, infiltrating fibroadipose tissue, see Note.
Note: See prior pleural effusion cell block specimen 
(___) for immunohistochemical characterization. 
 
    
REPORT APPROVED DATE: ___ 
SPECIMEN RECEIVED: ___    ___    RIGHT PARIETAL PLEURA 

DIAGNOSIS: FNA, Right parietal pleura: 
    
  POSITIVE FOR MALIGNANT CELLS. 
  Consistent with metastatic adenocarcinoma.  
  
REPORT APPROVED DATE: ___ 
SPECIMEN RECEIVED: ___    ___    PLEURAL FLUID 
DIAGNOSIS: Right pleural effusion: 
    
  POSITIVE FOR MALIGNANT CELLS. 
  Consistent with metastatic adenocarcinoma. 

IMAGING 
CHEST (PORTABLE AP) Study Date o ___ 5:43 ___ 
FINDINGS:  The patient is now after thoracoscopy, right basal 
chest tube is in place, there is a small adjacent right 
basolateral pneumothorax without evidence of tension.  The right 
pleural effusion is greatly improved after the intervention; 
however, a small amount of fluid remains in the pleural space.  
A heterogeneous opacity in the right lower lung is likely a 
combination of free expansion edema and atelectasis.  Minimal 
atelectasis is also seen at the left lung bases.  Unchanged mild 
deviation of the upper trachea to the left.  The size of the 
cardiac silhouette remains at the upper range of normal. 

CHEST (PORTABLE AP) Study Date of ___ 8:34 AM 
FINDINGS:  Two chest tubes remain in place in the right 
hemithorax.  
Circumferential right pleural opacity corresponding to a 
combination of 
pleural thickening and pleural fluid appear relatively similar 
to the prior radiograph.  Adjacent lung opacities remain most 
marked within the right middle and right lower lobe and show 
only slight improved aeration in these regions.  Diffuse 
interstitial pattern in right lung could reflect lymphangitic 
carcinomatosis given the history of malignancy.  A persistent 
small left effusion is present. 
 
Brief Hospital Course:
Mr. ___ is an ___ yo man with a history of metastatic NSCLC 
to T11, mediastinal LAD, and malignant pleural effusion who 
presents POD#3 following a talc pleurodesis, pleural biopsy, and 
R pleurex and chest tube placement.  

ACTIVE DIAGNOSES

# Malignant Pleural Effusion  
Patient underwent pleurX catheter and chest tube placement and 
talc pleurodesis x 2. Had a second talc pleurodsis ___ after 
which chest tube removed ___ and pleurX remained. Tylenol and 
Oxycodone prn pain at chest tube insertion site. Patient 
discharged with ___ for daily pleurX drainage. Patient to follow 
up with Dr ___. See instructions below.

1. Please drain Pleurx every day. Keep a log of amount and 
color, have the patient bring it with him to his appointment. 
2. Do not drain more than 1,000mL per drainage.
3. Stop draining for pain, chest tightness, or cough.
4. Do not manipulate catheter in any way.
5. Keep a daily log of drainage amount and color.
6. You may shower with an occlusive dressing.
7. If the drainage is less than 50cc for three consecutive 
drainages please call the office for further instructions.
8. Please call office with any questions or concerns at 
___. Pleurex catheter sutures to be removed when seen 
in clinic ___ days post pleurX placement.

# Metastatic NSCLC with Vertebral mets (T11) and pleural 
involvement  
Surgery is not an option. No radiation inpatient to allow for 
optimal pleurodesis. Will plan for outpatient XRT. XRT on hold 
for one week post-pleurodesis. Patient will be contacted by 
outpatient rad-onc for follow-up in one week.  

# UTI  
Patient with positive UA and WBC 18 concerning for UTI on past 
admission ___ and started on Ciprofloxacin 500mg BID for 5 
day course to end ___. Cultures not sent during that 
admission. Pyuria on admission. Cultures here negative. 
Completed 7 days of ciprofloxacin. Leukocytosis resolved 
following treatment.  Repeat UCx negative.  

CHRONIC DIAGNOSES

# HTN  
Relatively normotensive off meds.
 
# BPH  
Discharged on home tamsulosin and duasteride  

TRANSITIONAL ISSUES:
- follow up with IP
- follow up with radiation oncology

# CODE: Full Code  
# CONTACT: HCP ___ (girlfriend) ___ (home), 
___ (cell) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxycoDONE (Immediate Release)  2.5 mg PO Q6H:PRN pain 
unresponsive to tylenol 
Use tylenol first  
2. Acetaminophen 650 mg PO Q6H:PRN pain 
3. Avodart *NF* (dutasteride) 0.5 mg Oral daily 
4. Senna 1 TAB PO DAILY:PRN constipation 
5. Tamsulosin 0.4 mg PO HS 
hold for sbp<100 
6. Docusate Sodium 100 mg PO DAILY:PRN constipation 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO DAILY:PRN constipation 
3. OxycoDONE (Immediate Release)  2.5 mg PO Q6H:PRN pain 
unresponsive to tylenol 
4. Senna 1 TAB PO DAILY:PRN constipation 
5. Tamsulosin 0.4 mg PO HS 
6. Avodart *NF* (dutasteride) 0.5 mg Oral daily 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Malignant Pleural Effusion
Right Lung Adenocarcinoma with metastasis to T11

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you at ___ 
___. You were admitted to the hospital because of 
fluid surrounding your lung that was making it difficult to 
breathe.  You had two tubes placed to help drain the fluid from 
your lung.  You then had two procedures to prevent the fluid 
from re-accumulating around your lung.  
 
Followup Instructions:
___